US04960782
(i) 2-(2,4-Difluorophenyl)-3-fluoro-3-(1H-1,2,4-triazol-1-yl)-prop-1-ene
2-(1H-1,2,4-Triazol-1-yl)-2,2',4'-trifluoroacetophenone (10 g), anhydrous potassium carbonate (7.3 g), and methyltriphenylphosphonium bromide (15.5 g) were heated under reflux for 16 hours in 1,4-dioxan (250 ml), to which water (1.0 g) had been added.

reactant | 2-(1H-1,2,4-Triazol-1-yl)-2,2',4'-trifluoroacetophenone | 10 g | N1(N=CN=C1)C(C(=O)C1=C(C=C(C=C1)F)F)F | C10H6F3N3O
reactant | potassium carbonate | 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.0 g | O | H2O
catalyst | methyltriphenylphosphonium bromide | 15.5 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,4-dioxan | 250 ml | O1CCOCC1 | C4H8O2
product | 2-(2,4-Difluorophenyl)-3-fluoro-3-(1H-1,2,4-triazol-1-yl)-prop-1-ene | FC1=C(C=CC(=C1)F)C(=C)C(N1N=CN=C1)F | C11H8F3N3
